US07572820B2
N-(4-{[2-(4-Chloro-5-cyano-2-propyl-1H-indol-1-yl)ethyl]oxy}phenyl)acetamide
Synthesized as described in Example 4 from 4-chloro-2-propyl-1H-indole-5-carbonitrile and N-{4-[(2-bromoethyl)oxy]phenyl}acetamide: 1H NMR (400 MHz, DMSO-d6) δ 9.72 (s, 1H), 7.90 (s, 1H), 7.80 (d, J=8.5 Hz, 1H), 7.54 (d, J=8.5 Hz, 1H), 7.39 (d, J=9.0 Hz, 2H), 6.71 (d, J=9.0 Hz, 2H), 4.63 (t, J=4.9 Hz, 2H), 4.18 (t, J=4.9 Hz, 2H), 2.82 (t, J=4.9 Hz, 2H), 1.94 (s, 3H), 1.73-1.49 (m, 2H), 0.94 (t, J=4.9 Hz, 3H); MS (ES) m/z 396 (M+1).

reactant | 4-chloro-2-propyl-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)CCC | C12H11ClN2
reactant | N-{4-[(2-bromoethyl)oxy]phenyl}acetamide | BrCCOC1=CC=C(C=C1)NC(C)=O | C10H12BrNO2
product | N-(4-{[2-(4-Chloro-5-cyano-2-propyl-1H-indol-1-yl)ethyl]oxy}phenyl)acetamide | ClC1=C2C=C(N(C2=CC=C1C#N)CCOC1=CC=C(C=C1)NC(C)=O)CCC | C22H22ClN3O2
